US04235922
A mixture of p-nitrobenzyl 6-ethylidene-3-[2-(p-nitrobenzyloxycarbonylamino)ethylthio]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (37 mg), PtO2 (40 mg), THF (4 ml) and EtOH (2 ml) is hydrogenated at 50 psi and 25° C., for 2.5 hrs. The catalyst is filtered off and washed thoroughly with 0.1 M pH 7 phosphate buffer (5 ml). The combined filtrate and washings are concentrated in vacuo to remove most of the organic solvents. The aqueous residue is chromatographed on a column of Dowex-50×4 (Na Form) ion-exchange resin; the product being eluted with deionized H2O. The appropriate fractions are combined and lyophilized to afford 6-ethyl-3-(2-aminoethyl)thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid.

reactant | p-nitrobenzyl 6-ethylidene-3-[2-(p-nitrobenzyloxycarbonylamino)ethylthio]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 37 mg | C(C)=C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C26H24N4O9S
reactant | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | PtO2 | 40 mg | O=[Pt]=O
solvent | EtOH | 2 ml | CCO | C2H6O
product | 6-ethyl-3-(2-aminoethyl)thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | C(C)C1C2CC(=C(N2C1=O)C(=O)O)SCCN | C11H16N2O3S
